data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2823,3138,[CH3:1][O:2][C:3](=[O:4])[CH:5]1[C:6]#[C:7][C:8]([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[CH2:21][CH2:22][CH2:23][CH2:24]1.[CH3:25][O:26][C:27](=[O:28])[C-:29]([O+:30]=[C:31]([C:32]#[N:33])[C:34]([CH3:35])=[O:36])[c:37]1[cH:38][cH:39][cH:40][cH:41][cH:42]1>>[CH3:1][O:2][C:3](=[O:4])[CH:5]1[C:6]2=[C:7]([C:8]([c:9]3[cH:10][cH:11][cH:12][cH:13][cH:14]3)([c:15]3[cH:16][cH:17][cH:18][cH:19][cH:20]3)[CH2:21][CH2:22][CH2:23][CH2:24]1)[C:29]([C:27]([O:26][CH3:25])=[O:28])([c:37]1[cH:38][cH:39][cH:40][cH:41][cH:42]1)[O:30][C:31]2([C:32]#[N:33])[C:34]([CH3:35])=[O:36],water,298.15,3.8784338209071887,-55.98581101559385
5217,5920,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([C:15]([CH3:16])=[O:17])[N+:18]([CH3:19])=[C:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:20]([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)([c:27]2[cH:28][cH:29][cH:30][cH:31][cH:32]2)[N:18]([CH3:19])[C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:15]([CH3:16])=[O:17],water,298.15,51.722906608974505,3.287576372567002
3135,3533,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][CH-:8][N+:9]([CH3:10])=[C:11]([CH3:12])[C:13]([CH3:14])=[O:15]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[CH:8]([CH3:7])[N:9]([CH3:10])[C:11]1([CH3:12])[C:13]([CH3:14])=[O:15],water,298.15,15.258449657683268,-16.267272364148432
373,404,[CH3:9][C:10](=[O:11])[C:12]#[N+:13][C-:14]([C:15]([CH3:16])=[O:17])[C:18]([CH3:19])=[O:20].[F:1][C:2]1=[CH:3][CH:4]2[CH2:5][CH2:6][CH:7]1[CH2:8]2>>[F:1][C:2]12[CH:3]([CH:4]3[CH2:5][CH2:6][CH:7]1[CH2:8]3)[C:14]([C:15]([CH3:16])=[O:17])([C:18]([CH3:19])=[O:20])[N:13]=[C:12]2[C:10]([CH3:9])=[O:11],water,298.15,16.67356208795588,-39.68683461523816
3230,3646,[CH3:10][N-:11][N+:12]#[C:13][C:14]([CH3:15])=[O:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[N:11]([CH3:10])[N:12]=[C:13]1[C:14]([CH3:15])=[O:16],water,298.15,22.23906020881619,-36.056542758823696
1753,1941,[CH3:12][C:13](=[O:14])[CH:15]=[N+:16]([CH3:17])[C-:18]([CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Br:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([Br:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:18]([CH3:19])([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[N:16]([CH3:17])[CH:15]2[C:13]([CH3:12])=[O:14],water,298.15,16.975253666336386,-22.33091083933514
1616,1786,[CH3:13][NH:14][C:15](=[O:16])[C-:17]([CH3:18])[NH+:19]=[C:20]([CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][C:2]1([CH3:3])[C:4]#[C:5][C:6]([F:7])([F:8])[CH2:9][CH2:10][CH2:11][CH2:12]1>>[CH3:1][C:2]1([CH3:3])[C:4]2=[C:5]([C:6]([F:7])([F:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[C:20]([CH3:21])([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[NH:19][C:17]2([C:15]([NH:14][CH3:13])=[O:16])[CH3:18],water,298.15,20.52055823890708,-47.01105561115978
2446,2714,[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[CH2:23][CH2:24][CH2:25][CH2:26]1.[CH3:27][CH-:28][NH+:29]=[C:30]([C:31]#[N:32])[C:33]([CH3:34])=[O:35]>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([c:11]3[cH:12][cH:13][cH:14][cH:15][cH:16]3)([c:17]3[cH:18][cH:19][cH:20][cH:21][cH:22]3)[CH2:23][CH2:24][CH2:25][CH2:26]1)[CH:28]([CH3:27])[NH:29][C:30]2([C:31]#[N:32])[C:33]([CH3:34])=[O:35],water,298.15,23.926084183293906,-14.6247576832461
3688,4209,[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9].[CH:10]#[N+:11][C-:12]([C:13]#[N:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[CH:10]=[N:11][C:12]1([C:13]#[N:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,13.93344619426844,-35.442154569722774
1168,1269,[CH3:11][NH:12][C:13](=[O:14])[N:15]=[O+:16][N-:17][C:18](=[O:19])[O:20][CH3:21].[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]12[C:4]([Br:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[N:17]([C:18](=[O:19])[O:20][CH3:21])[O:16][N:15]2[C:13]([NH:12][CH3:11])=[O:14],water,298.15,14.47038921857451,-70.02038742261756
1767,1958,[CH3:17][O:18][C:19](=[O:20])[N:21]=[NH+:22][N-:23][c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[F:1][C:2]1([F:3])[C:4]#[C:5][CH:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH2:13][CH2:14][CH2:15][CH2:16]1>>[F:1][C:2]1([F:3])[C:4]2=[C:5]([CH:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)[CH2:13][CH2:14][CH2:15][CH2:16]1)[N:21]([C:19]([O:18][CH3:17])=[O:20])[NH:22][N:23]2[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,26.10591732881496,-24.474617608915683
